US04026887
3-[(2-methyl-1,3,4-thiadiazol-5-ylthio)methyl]-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
When appropriate amounts of an amino acid derivative and a 7-aminocephalosporanic acid derivative listed in the following Table IX are substituted respectively for p-chloromethylphenylglycine and 3-[(2-methyl-1,3,4-thiadiazol-5-yl-thio)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in the above procedure, the respective products listed in the following Table IX are obtained.

reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | p-chloromethylphenylglycine | ClCC1=CC=C(C=C1)NCC(=O)O | C9H10ClNO2
reactant | 3-[(2-methyl-1,3,4-thiadiazol-5-yl-thio)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | CC=1SC(=NN1)SCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C11H12N4O3S3
product | 3-[(2-methyl-1,3,4-thiadiazol-5-ylthio)methyl]-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | CC=1SC(=NN1)SCC1=C(N2C(C(C2SC1)NC(C(N)C1=CC=C(C=C1)CCl)=O)=O)C(=O)O | C20H20ClN5O4S3
